US04906621
A solution of 22.2 g of 4-(tert-butyl-dimethylsilyloxyethyl)-2-cyanopyridine in 220 ml anhydrous ethanol containing 0.19 g of sodium is stirred at room temperature for 24 hours. The solution is then cooled to 0° and 22 ml of 6N hydrochloric acid added. The solution is stirred at room temperature for 16 hours, cooled to 0° and 7.5 ml 6N sodium hydroxide added followed by 75 ml saturated aqueous sodium bicarbonate. Extraction with methylene chloride and flash chromatography using ethyl acetate yields ethyl 4-(2-hydroxyethyl)-pyridine-2-carboxylate.

reactant | 4-(tert-butyl-dimethylsilyloxyethyl)-2-cyanopyridine | 22.2 g | [Si](C)(C)(C(C)(C)C)OCCC1=CC(=NC=C1)C#N | C14H22N2OSi
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 6N, 22 ml | Cl | ClH
reactant | sodium hydroxide | 6N, 7.5 ml | [OH-].[Na+]
reactant | sodium bicarbonate | 75 ml | C([O-])(O)=O.[Na+]
reactant | ethanol | 220 ml, 0.19 g | C(C)O | C2H6O
product | ethyl 4-(2-hydroxyethyl)-pyridine-2-carboxylate | OCCC1=CC(=NC=C1)C(=O)OCC | C10H13NO3
